US07745484B2
2,2,6,6-Tetramethylpiperidine (2.47 ml, 14.7 mmol) was dissolved in 100 ml THF and cooled to −78° C. 1-Butyllithium (5.23 ml, 13.1 mmol, 2.5M) was added and the reaction was allowed to warm up to 0° C. for 5 min before it was cooled back to −78° C. again. At this point, a solution of 2-fluoro-5-neopentylpyridine (1.75000 g, 10.5 mmol) was added dropwise and the reaction was stirred for 1 h. Next, a solution of (E)-N-(2-(1-(tert-butyldimethylsilyloxy)-3-methylcyclobutyl)ethylidene)-2-methylpropane-2-sulfinamide (3.98 g, 11.5 mmol) in THF was added dropwise and stirring was continued for 1 h. The mixture was hydrolyzed with NH4Cl in the cold, warmed up to RT extracted with EtOAc (3×150 ml), dried over MgSO4 and evaporated. N-((S)-2-(1-(tert-Butyldimethylsilyloxy)-3-methylcyclobutyl)-1-(2-fluoro-5-neopentylpyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (3.30 g, 61.5% yield) was obtained after glass col. Chrom. (20-70% EtOAc in Hex.). Low yield due to the formation of a minor diastereomer at the NH center (approx 30%). Mixture of cis/trans at the cyclobutylring (4:1).

reactant | 2,2,6,6-Tetramethylpiperidine | 14.7 mmol, 2.47 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-Butyllithium | 13.1 mmol, 2.5M, 5.23 ml | C(CCC)[Li]
reactant | 2-fluoro-5-neopentylpyridine | 10.5 mmol, 1.75000 g | FC1=NC=C(C=C1)CC(C)(C)C | C10H14FN
reactant | (E)-N-(2-(1-(tert-butyldimethylsilyloxy)-3-methylcyclobutyl)ethylidene)-2-methylpropane-2-sulfinamide | 11.5 mmol, 3.98 g | [Si](C)(C)(C(C)(C)C)OC1(CC(C1)C)C\C=N\S(=O)C(C)(C)C | C17H35NO2SSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-((S)-2-(1-(tert-Butyldimethylsilyloxy)-3-methylcyclobutyl)-1-(2-fluoro-5-neopentylpyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 3.30 g, 61.5% yield | [Si](C)(C)(C(C)(C)C)OC1(CC(C1)C)C[C@@H](C=1C(=NC=C(C1)CC(C)(C)C)F)NS(=O)C(C)(C)C | C27H49FN2O2SSi
